US07582760B2
[2-(1-Benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yl)-ethyl]-methyl-carbamic acid tert-butyl ester (31 mg) was dissolved in 2.0 ml of tetrahydrofuran and 100 uL of 2.0 N HCl/EtOH was added. The solution was heated on a steam bath for 30 minutes and then after cooling diethyl ether was slowly added to produce 10 mg of 1-benzyl-4-(2-methylamino-ethyl)-1,3-dihydro-benzoimidazol-2-one hydrochloride salt as a colorless powder. MS: 282 (M+H)−.

reactant | [2-(1-Benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yl)-ethyl]-methyl-carbamic acid tert-butyl ester | 31 mg | C(C)(C)(C)OC(N(C)CCC1=CC=CC=2N(C(NC21)=O)CC2=CC=CC=C2)=O | C22H27N3O3
reactant | HCl EtOH | 2.0 N, 100 uL | Cl.CCO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | 1-benzyl-4-(2-methylamino-ethyl)-1,3-dihydro-benzoimidazol-2-one hydrochloride salt | 10 mg | Cl.C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2CCNC)=O | InChI=1S/C17H19N3O.ClH/c1-18-11-10-14-8-5-9-15-16(14)19-17(21)20(15)12-13-6-3-2-4-7-13;/h2-9,18H,10-12H2,1H3,(H,19,21);1H
